US07511033B2
3′-(8-Isobutylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid amide
) The title compound was prepared from the above described 3′-(8-isobutylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid tert-butylamide (275 mg) and TFA (6 mL) according to the general procedure I step 2. Obtained as a yellow solid (126 mg, 47%). MS (ISN) 529.4 [(M−H)−]; mp 251° C. (dec).

reactant | 3′-(8-isobutylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid tert-butylamide | 275 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=C(C(=C2)C(F)(F)F)NCC(C)C)=O | C30H33F3N4O3S
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3′-(8-Isobutylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid amide | C(C(C)C)NC=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C=CC2)C2=CC=C(C=C2)S(=O)(=O)N)C1)C(F)(F)F | C26H25F3N4O3S
